US05256675
To a solution of 2-amino-4-methylthiazole hydrochloride (3.0 g) in acetic acid (20 ml) was added once N-bromosuccinimide (4.0 g) at room temperature with stirring. The mixture was stirred at room temperature for 1.5 hours and the reaction mixture was poured into isopropyl ether under ice cooling. The precipitates were collected by filtration, washed with ethyl ether and dried in vacuo to give 2-amino-5-bromo-4-methylthiazole hydrochloride (4.1 g, yield: 89.1%).

reactant | 2-amino-4-methylthiazole hydrochloride | 3.0 g | Cl.NC=1SC=C(N1)C
reactant | N-bromosuccinimide | 4.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-amino-5-bromo-4-methylthiazole hydrochloride | 4.1 g, yield: 89.1% | Cl.NC=1SC(=C(N1)C)Br | InChI=1S/C4H5BrN2S.ClH/c1-2-3(5)8-4(6)7-2;/h1H3,(H2,6,7);1H
